US08124647B2
a) 6-Nitro-1-pyrimidin-5-ylmethyl-1H-indole
6-Nitroindole-1H-indole (35.6 g, 220 mmol) was dissolved in 750 mL of DMF and NaH (50%, 12 g, 250 mmol) was added in portions and the mixture was stirred for 1 hour. The mixture was cooled to −40° C. and the solution of the mesylate was added dropwise. The mixture was allowed to reach room temperature overnight. The mixture was quenched with water and extracted with ethyl acetate (2×). The combined organic layers were washed with water (2×) and brine and dried over Na2SO4. After concentration in vacuo the material was purified by means of column chromatography (silica, heptane/ethyl acetate (1:1)→(1:4)) affording compound the title compound as a yellow solid (14 g, 55 mmol, 39%).

reactant | 6-Nitroindole 1H-indole | 220 mmol, 35.6 g | [N+](=O)([O-])C1=CC=C2C=CNC2=C1.N1C=CC2=CC=CC=C12
reactant | NaH | 250 mmol, 12 g | [H-].[Na+]
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | DMF | 750 mL | CN(C)C=O | C3H7NO
product | 6-Nitro-1-pyrimidin-5-ylmethyl-1H-indole | 55 mmol, 14 g, 39% | [N+](=O)([O-])C1=CC=C2C=CN(C2=C1)CC=1C=NC=NC1 | C13H10N4O2
